US04966902
(1.5) 2-(6-Chloro-pyrid-3-yl)-2-methyl-propanol
3.6 g (20 mmol) of 2-(6-chloro-pyrid-3-yl)-2-methylpropionitrile are introduced into 50 ml of toluene, and 25 ml of a diisobutylaluminum hydride solution (1M in toluene) is added dropwise without cooling, by means of which the internal temperature rises to 45° C. The mixture is stirred for 2 hours at room temperature. 10 ml of methanol, 50 ml of water and 90 ml of 2N sulfuric acid are then cautiously added successively, and the mixture is stirred for 2 hours at room temperature and finally for 2 hours at 50° C. The toluene phase is separated off and the solvent is removed. The residue is dissolved in 10 ml of methanol and a solution of 0.1 g of sodium and 0.4 g (10.6 mmol) of sodium borohydride in 10 ml of methanol are added. The mixture is stirred for 1 hour at room temperature and acidified with 0.7 g of acetic acid, and the solvent is removed. The residue is boiled with ethyl acetate, the ester phase is boiled off and the solvent is removed in vacuo. The oily crude product is distilled in a bulb tube; 0.15 mbar, apparatus temperature 170° C. Yield 2.5 g (67% of theory) of a colorless oil.

reactant | 2-(6-chloro-pyrid-3-yl)-2-methylpropionitrile | 20 mmol, 3.6 g | ClC1=CC=C(C=N1)C(C#N)(C)C | C9H9ClN2
reactant | diisobutylaluminum hydride | 1M, 25 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sulfuric acid | 2N, 90 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium | 0.1 g | [Na] | Na
reactant | sodium borohydride | 10.6 mmol, 0.4 g | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | acetic acid | 0.7 g | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(6-Chloro-pyrid-3-yl)-2-methyl-propanol | ClC1=CC=C(C=N1)C(CO)(C)C | C9H12ClNO
